data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,7806,"CC(=O)[O-:1].CCOC(=O)[C:2](CC(=O)C1=CC=CC=C1)([H:3])[C:4](C)=[NH2+:5].O|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,8337,"C[N:1](C)CC1=CC=CC=C1.[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,10222,"CS[CH:1]=[NH:2]|((1, 2), 2)"
train,pmechdb_split_0,0,9378,"C[C:1](C)([NH:2]O)[OH2+:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,3764,"CC(=O)O[Si-:1](C)(C)(C)[O+:2]=CC(C)CC1CCCCCC1|((1, 2), 2)"
train,pmechdb_split_0,0,8494,"C1=CN=C([CH2-:1])C=C1.C[C:2](C)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5767,"CC(=O)O.CC(=O)O[I+:1]1([O:2][CH:3](C2CCCN2C(=O)C2=CC=CN2)[H:4])OC(=O)C2=C1C=CC=C2.CC(=O)[O-:5]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,8063,"Br[C-:1](Br)Br.Br[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.COC(=O)C1=CC=C(C[O:2][H:3])C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1306,"CCC(C)C([NH3+])[C:1](O)=[OH+:2].C[OH:3].[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6458,"CCOC(=O)CN[P+:1](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,8665,"CC(=O)O.O=C(C1=CC=C(F)C=C1)C(C[C:1](C1CCN(C(=O)OCC2=CC=CC=C2)CC1)=[O:2])C1=CC=NC=C1.[NH3:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2108,"CCOC(=O)C1C(C)(O)[O+:1]=[C:2](C)[CH:3]1[H:4].C[OH:5].O=S(=O)([O-])O|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,8551,"CC(=O)CC(C)(NC1=C2N=CNC2=CC=C1)[OH:1].CC(=O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4211,"CC1(C)CC(=O)[C:1]([H:2])([C:3](C)=[O:4])C(=O)C1.CC[N+]([K])(CC)CC.N#[C-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7126,"CC(O)(O)[OH:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,136,"C=CC1=C(C(=O)[O:1][H:2])N2C(=O)C(NC(=O)CC3=CC=CC=C3)C2SC1.CC(C)OC(=O)C(CO[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(=O)OC(C)(C)C.CCOC(=O)N[N-:3]C(=O)OCC|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2413,"CC(C1=CC=CC=C1)=[O+:1][Li-:2][OH].CNOC|((2, 1), 1)"
train,pmechdb_split_0,0,2308,"C1CC23CCC[C:1]2([CH+:2]C1)[CH2:3]3.CC(=O)[O-].CS(=O)(=O)[O-]|((1, 3), 2)"
train,pmechdb_split_0,0,1903,"CCC(C)=NO[CH:1]([N:2](C)C)[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4907,"CC(=O)[O:1][H:2].[NH2-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2919,"C1CC[NH:1]C1.CC1CCC[CH:2]([H:3])[C:4]1=[N+:5]1CCCC1|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,9410,"CC(NC(=O)OCC1C2=CC=CC=C2C2=C1C=CC=C2)[C:1](Cl)=[O:2].COC(=O)C(CC1=CNC2=CC=CC=C12)NC(=O)C1=C([NH2:3])C=CC=C1.O.O=C([O-])[O][Na].[Na+]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1007,"CC[OH:1].C[CH:2]([H:3])[C+:4](C)C1=CC=CC=C1|(1, 3);((3, 2), 4)"
train,pmechdb_split_0,0,10009,"C[C:1]([CH:2](CC=O)[H:3])=[O:4].[OH-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,5887,"C1=CC=C(C2=NN(CC[NH2:1])C([C:2](CC3CCCCC3)=[O:3])=C2)C=C1.CCN(CC)CC|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6164,"CCCCCC1=CC=C[N+:1]([CH:2]2CC(O)C(COCC)[O:3]2)=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4036,"CCOC(=O)[C:1](C)([C:2](C)(O)[O-:3])[N:4]=[N:5]C1=C2C(C3=C(F)C=CC=C3)=CC=NC2=C(OC)C=C1.O.[Cl-]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,730,"CO[C+:1]1C=C([N+](=O)[O-])C=C[C:2]1(S(=O)(=O)O)[H:3].O=S(=O)(O)[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,3632,"CN(C)[P:1]12(OC3=C(C=CC=C3)O1)[N:2]=[N:3][N:4]2C1=CC=CC=C1|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,9725,"C[CH+:1][C:2]1([CH3:3])CCCC1|((2, 3), 1)"
train,pmechdb_split_0,0,3302,"CC1=CC=C(S(=O)(=O)[N:1](N=C2CCCCC2)[H:2])C=C1.CCC[CH2:3][Li:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,9262,"C[Si](C)(C)C[C:1]#[CH:2].[Cl:3][Cl:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6702,"O=S(=O)(O)[O-:1].O=[N+]([O-])C1=CC=C[C:2]([N+](=O)[O-])([H:3])[CH+:4]1|(1, 3);((3, 2), 4)"
train,pmechdb_split_0,0,3002,"CC(C)NC(C)C.CCCC1[O][Li-:1][N+:2](C(C)(C)C)=CC1(C)[Si](CC)(CC)CC|((1, 2), 2)"
train,pmechdb_split_0,0,7622,"CC(C)(C)[Si](C)(C)[C:1]1([Li:2])SCCCS1.CC(C)C.COC1=CC=C(COCC2[CH2:3][O:4]2)C=C1|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4124,"C[S+:1]=[CH:2][NH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5301,"CCCC(C)[O:1][H:2].[H:3][Na:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,3242,"Br[C:1]1=[CH:2][CH:3]=[CH:4]C=C1.C[C+:5]=O|((1, 2), 3);((3, 4), 5)"
train,pmechdb_split_0,0,3016,"CC(C)(C)[O-:1].O=C(C1=CC=CC=C1)C1CCCC1C1CC[CH:2]([H:3])[P+]1(C1=CC=CC=C1)C1=CC=CC=C1.[K+]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2868,"CCC(C=O)(CCCNC(=O)CCl)CCC1([O-:1])CC2=C(C=CC=C2)[NH2+]1.O=C(C(F)(F)F)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9899,"CCC(=O)O[C:1](C)([O-:2])[O:3]C(C)=O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,3625,"C1=CC=C(C2=C([O:1][H:2])C=CC=C2)C=C1.[H:3][Na:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,7646,"CC(C)C1=CC(=O)C(C)([C-:1](Cl)Cl)C=C1.[Cl-].[Na][OH+:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6608,"CC(=O)O.O.O=C=O.O=[N+]([O-])CCC[CH:1]=[N+:2]1CCCC[CH-:3]1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,684,"CC1=C(O)C(C)=C2CCC(C)([C:1](O)=[OH+:2])OC2=C1C.CC1=CC=C(S(=O)(=O)[O-])C=C1.C[OH:3]|(3, 1);((1, 2), 2)"
